US05064861
STEP A: 7-hydroxy-coumarin-4-acetic acid
84 g of citric acid and 112 ml of concentrated sulfuric acid were stirred for one hour at ambient temperature and then heated progressively to 70° C. and maintained there for 35 minutes. The mixture was cooled to 0° C. and 34.56 g of 1,3-benzene diol and 44.8 ml of concentrated sulfuric acid were added. The mixture was maintained for 16 hours at 0° C. and then poured over ice. The crystallized product was separated off and dried under reduced pressure to obtain after crystallization from water, 22.77 g of the expected product melting at 210° C.

reactant | citric acid | 84 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | sulfuric acid | 112 ml | S(O)(O)(=O)=O | H2O4S
reactant | 1,3-benzene diol | 34.56 g | C1(=CC(=CC=C1)O)O | C6H6O2
reactant | sulfuric acid | 44.8 ml | S(O)(O)(=O)=O | H2O4S
product | 7-hydroxy-coumarin-4-acetic acid | OC1=CC=C2C(=CC(OC2=C1)=O)CC(=O)O | C11H8O5
